US06140332
4-(3-Chloro-anilino)-6-(4-methoxycarbonyl-phenyl)-7H-pyrrolo-[2,3-d]pyrimidine
0.5 g (1.37 mmol) of 4-(3-chloro-anilino)-6-(4-carboxy-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine suspended in 100 ml of methanol is heated under reflux for 24 hours with 0.1 ml of concentrated sulfuric acid. The solution is concentrated and stirred in methanol/diethyl ether. The crystals are filtered off and then suspended in methanol/water. The suspension is adjusted to pH 7-8 with sodium hydrogen carbonate solution and stirred at RT for 30 min. The crystals are filtered off with suction, washed with water, methanol and diethyl ether and dried. The title compound is obtained in the form of colorless crystals, m.p.>300° C.; TLC-Rf =0.6 (toluene/ethyl acetate [3:7]); FAB-MS: (M+H)+ =378.

reactant | 4-(3-chloro-anilino)-6-(4-carboxy-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine | 1.37 mmol, 0.5 g | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)C(=O)O)C=CC1 | C19H13ClN4O2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | 4-(3-Chloro-anilino)-6-(4-methoxycarbonyl-phenyl)-7H-pyrrolo-[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)C(=O)OC)C=CC1 | C20H15ClN4O2
